Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
symptomatic rectocele
 
Major Surgical or Invasive Procedure:
POSTERIOR COLPORRHAPHY WITH INSERTION OF BIOLOGIC GRAFT IN THE 
POSTERIOR COMPARTMENT; PERINEORRHAPHY

 
History of Present Illness:
Mrs. ___ returns today stating that she is still 
experiencing
vaginal bulging daily that is affecting her quality of life.  
She
reports that it is most noticeable during her bowel movements 
and
that it protrudes just past the entrance.  She denies having to
splint anymore but admits to a sensation of incomplete emptying
when she is trying to evacuate her stool. 
She is not currently sexually active and denies any dyspareunia.
She is otherwise without any other significant complaints.

Mrs. ___ is a ___ yo Gravida 6 Para ___ who presents
today in the office for a consultation requested by Dr.
___ vaginal prolapse and urinary
incontinence. She
is complaining of vaginal pressure and bulging that is worse
after bowel movements.  She admits to having a vaginoplasty in
___ which she felt did not help her symptoms of vaginal
pressure.  
She has been experiencing urgency and frequency since I seen 89
with occasional urgency incontinence episodes.  She admits to
consuming ___ cups of coffee per day and 1 cup of tea daily.  
She
reports improvement in her irritative voiding symptoms and
incontinence after receiving her doxycycline treatment.  She
states "my symptoms are unpredictable when it comes to my 
urine".
She admits to rare stress urinary incontinence episodes. She 
also
had a Monarc sling performed in ___ ___.
She voids ___ times per day, ___ times per night and does not
need to wear a pad.  She reports her urinary stream as "normal". 

She denies any recent urinary tract infection.  She is not
currently sexually active and is otherwise without any other
significant complaints.
 
Past Medical History:
CHRONIC URINARY                                                 
COLONOSCOPY ___                                                
ESOPHAGEAL REFLUX DISEASE                                       
HERNIA                                                          
PTSD                                                            
SEASONAL ALLERGIES                                              
UTERINE FIBROIDS                                                
HX + PPD, NEG CHEST XRAY , COMPLETED 6 MONTHS INH               
BUTTOCKS                                                        
HAND PAIN                                                       
VERTIGO                                                         
ASTHMA                                                          
ANXIETY                                                         
DEPRESSION                                                      
ARTHRITIS 
 
Social History:
___
Family History:
Her family history is unremarkable for Breast, Ovarian or Colon
cancer.
 
Physical Exam:
PHYSICAL EXAM AT DISCHARGE
==========================
Vitals: 98.1, 98 / 52, 61, 18, 95% Ra 
I/Os since midnight: IN PO 360; OUT urine 300
past 24 hours: IN PO 1130, IVF 1340; OUT urine 3257

PE: Comfortable
CV: RRR, no murmurs, distant
Pulm: CTAB
Abd: soft, non-tender. 
GU: pad with minimal spotting
Ext: non-tender, symmetric, pneumoboots in place
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing posterior colporrhaphy. Please see the 
operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV morphine toradol.

On post-operative day 1, her urine output was adequate and she 
passed a trial of void.  Her diet was advanced without 
difficulty and she was transitioned to oxycodone ibuprofen and 
acetaminophen. She was seen by social work for coping. She 
reported increased pain in the evening, but refused aditional IV 
pain medicine. 

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
ALBUTEROL SULFATE - albuterol sulfate HFA 90 mcg/actuation
aerosol inhaler. 2 puffs inhaled four times a day
CLOTRIMAZOLE-BETAMETHASONE - clotrimazole-betamethasone 1 %-0.05
% topical cream. apply to rash on neck twice a day as needed - 
(Prescribed by Other Provider)
DOXYCYCLINE HYCLATE - doxycycline hyclate 50 mg capsule. 1
capsule(s) by mouth twice a day WITH FOOD
FLUTICASONE - fluticasone 50 mcg/actuation nasal
spray,suspension. 2 sprays intranasally once a day
MECLIZINE - meclizine 25 mg tablet. 1 tablet(s) by mouth three
times a day as needed
NAPROXEN - naproxen 500 mg tablet. 1 tablet(s) by mouth twice a
day as needed
PENCICLOVIR [DENAVIR] - Denavir 1 % topical cream. apply to
affected area four times a day
VALACYCLOVIR - valacyclovir 500 mg tablet. 1 tablet(s) by mouth
twice a day as needed for aqs needed -  (Prescribed by Other
Provider)
 
Medications - OTC
CALCIUM CARBONATE-VIT D3-MIN - calcium carb-vit D3-minerals 600
mg calcium-400 unit tablet. 1 Tablet(s) by mouth once a day
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - Dosage uncertain 
-
(Prescribed by Other Provider)
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - Dosage uncertain 
-
(OTC)
GLUCOSAMINE SULFATE [GLUCOSAMINE] - Dosage uncertain - 
(Prescribed by Other Provider)
MULTIVITAMIN - multivitamin chewable tablet. Tablet(s) by mouth 
-  (OTC)
RANITIDINE HCL - Dosage uncertain -  (OTC)
--------------- --------------- --------------- ---------------
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*50 Tablet Refills:*2 
2.  Cyclobenzaprine 5 mg PO HS 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth three times per 
day Disp #*9 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
per day Disp #*30 Capsule Refills:*2 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours as 
needed Disp #*50 Tablet Refills:*2 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours as needed 
Disp #*16 Tablet Refills:*0 
6.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, cough  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic rectocele

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___:

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
 
Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___